US06372759B1
C) N-(1-Boc-6-indazolyl)-2-[(4-t-butylbenzoyl)amino]-5-nitrobenzamide
To a stirring suspension of NaH (61 mg, 1.53 mmol) in THF (10 mL) was added 2-[(4-t-butylbenzoyl)amino]-N-(6-indazolyl)-5-nitrobenzamide (700 mg, 1.53 mmol) followed by a solution of di-t-butyl dicarbonate (330 mg, 1.53 mmol) in THF (20 mL). After 24 h, the mixture was diluted with ethyl acetate and washed with 1 M citric acid, water, satd aq NaHCO3 and brine. The organic phase was then dried with MgSO4, filtered and concentrated in vacuo. The residue was chromatographed over silica gel eluting with 25% ethyl acetate/hexanes to give 690 mg (81%) of an off-white solid.

reactant | NaH | 1.53 mmol, 61 mg | [H-].[Na+]
reactant | 2-[(4-t-butylbenzoyl)amino]-N-(6-indazolyl)-5-nitrobenzamide | 1.53 mmol, 700 mg | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C4C=NNC4=C3)C=C(C=C2)[N+](=O)[O-])C=C1 | C25H23N5O4
reactant | di-t-butyl dicarbonate | 1.53 mmol, 330 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-Boc-6-indazolyl)-2-[(4-t-butylbenzoyl)amino]-5-nitrobenzamide | 690 mg, 81% | C(=O)(OC(C)(C)C)N1N=CC2=CC=C(C=C12)NC(C1=C(C=CC(=C1)[N+](=O)[O-])NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C30H31N5O6
